US07312181B2
To a solution of 1.0 gm (3.09 mmol) of methyl 3-(3-trifluoromethylbenzamido)benzoate in 19 mL of tetrahydrofuran was added 1.06 mL (30.9 mmol) of hydrazine hydrate. The reaction was heated to reflux for 48 hr. After cooling, the reaction mixture was concentrated under rotevaporation, and ether and water were added. The solid product was separated by filtration and dried in vacuo to give 785 mg (2.43 mmol, 79% yield) of 3-(3-trifluoromethylbenzamido)benzhydrazide as a white solid. MS m/z: 324.0 (M+H).

reactant | methyl 3-(3-trifluoromethylbenzamido)benzoate | 3.09 mmol, 1.0 gm | FC(C=1C=C(C(=O)NC=2C=C(C(=O)OC)C=CC2)C=CC1)(F)F | C16H12F3NO3
reactant | hydrazine hydrate | 30.9 mmol, 1.06 mL | O.NN
solvent | tetrahydrofuran | 19 mL | O1CCCC1 | C4H8O
product | 3-(3-trifluoromethylbenzamido)benzhydrazide | 2.43 mmol, 785 mg, 79% yield | FC(C=1C=C(C(=O)NC=2C=C(C(=O)NN)C=CC2)C=CC1)(F)F | C15H12F3N3O2
